US07432266B2
Under an atmosphere of argon, 1,1-Dimethoxy-N,N-dimethylmethanamine (4.4 mL, 0.033 mol) and 1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)ethanone (3.5 g, 0.011 mol) were mixed in N,N-dimethylformamide (110 mL) and the resulting mixture was heated at 140° C. for 16 hours. After cooling to room temperature, water (250 mL) and ethyl acetate (250 mL) were added, the layers were separated, and the product was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with water and brine, dried (sodium sulfate), and the volatiles were removed in vacuo to afford 4.1 g (quantitative yield) of (2E)-3-(dimethylamino)-1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)prop-2-en-1-one, which was used without further purification.

reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 0.033 mol, 4.4 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)ethanone | 0.011 mol, 3.5 g | C(C)C1=NN(C2=CC(=CC=C12)C(C)=O)COCC[Si](C)(C)C | C17H26N2O2Si
reactant | water | 250 mL | O | H2O
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
product | (2E)-3-(dimethylamino)-1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)prop-2-en-1-one | 4.1 g, quantitative yield | CN(/C=C/C(=O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)CC)C | C20H31N3O2Si
